US07414051B2
Preparation of N-methyl-2-{[6-(1-naphthylsulfonyl)-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-8-yl]oxy}ethanamine Hydrochloride
A mixture of 2-[2-(naphthalene-1-sulfonyl)-7,8-dihydro-6-oxa-1,8a-diaza-acenaphthylen-4-yloxy]ethanol (0.41 g, 1.0 mmoles), methane sulfonic anhydride (Ms2O) (0.176 g, 1.05 mmoles) and triethylamine (0.143 ml, 1.05 mmole) in CH2Cl2 was stirred at 0° C. to room temperature for 5 hours and concentrated in vacuo to give a residue. A mixture of the residue and methylamine (0.5 ml of 1M solution in THF, 0.5 mmoles) in DMSO was stirred overnight at 70° C., cooled to room temperature, diluted with water and extracted with EtOAc. The extracts were combined, washed sequentially with water and brine, dried over Na2SO4 and concentrated under vacuum. The resultant residue was purified by flash chromatography using as eluent 5% CH3OH/EtOAc. The purified compound was dissolved in methanol, treated with 1M HCl in ether (0.2 ml, 0.2 mmoles) and evaporated to dryness to afford the title product as a dark pale solid, identified by HNMR and mass spectral analyses, MS: (ES) m/z 423.

reactant | 2-[2-(naphthalene-1-sulfonyl)-7,8-dihydro-6-oxa-1,8a-diaza-acenaphthylen-4-yloxy]ethanol | 1.0 mmoles, 0.41 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NN2CCOC=3C=C(C=C1C23)OCCO | C21H18N2O5S
reactant | methane sulfonic anhydride | 1.05 mmoles, 0.176 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 1.05 mmole, 0.143 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine | 0.5 mmoles, 1M, 0.5 ml | CN | CH5N
reactant | HCl | 1M | Cl | ClH
reactant | ether | 0.2 mmoles, 0.2 ml | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-methyl-2-{[6-(1-naphthylsulfonyl)-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-8-yl]oxy}ethanamine Hydrochloride | Cl.CNCCOC=1C=C2C(=NN3C2=C(C1)OCC3)S(=O)(=O)C3=CC=CC1=CC=CC=C31 | InChI=1S/C22H21N3O4S.ClH/c1-23-9-11-28-16-13-18-21-19(14-16)29-12-10-25(21)24-22(18)30(26,27)20-8-4-6-15-5-2-3-7-17(15)20;/h2-8,13-14,23H,9-12H2,1H3;1H
